US04683241
4,4'-dipivaloyloxybenzophenone
A solution of 10 g of 4,4'dihydroxybenzophenone in pyridine (40 ml) was treated with trimethylacetyl chloride and refluxed for 5 hours. The resultant solution was concentrated under reduced pressure and ETOAc added. The organic layer was washed with H2O, 5% aq. K2CO3, 1% aq. NaOH and dried over MgSO4 and concentrated to give approximately 13 g of a beige solid which was further chromatographed using 7/93 ethyl acetate-toluene to yield 2.83 g (20%) of the monoester (a) and 3.42 g (19%) (b) of the title compound; M.P.=166°-167° C.

reactant | 4,4'dihydroxybenzophenone | 10 g | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
reactant | trimethylacetyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4,4'-dipivaloyloxybenzophenone | approximately 13 g | C(C(C)(C)C)(=O)OC1=CC=C(C(=O)C2=CC=C(C=C2)OC(C(C)(C)C)=O)C=C1 | C23H26O5
